US08486950B2
2,6-dichloro-N-(2-((1R,2R)-2-chlorocyclopropanecarboxamido)pyridin-4-yl)benzamide
To a solution of N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide (150 mg, 0.54 mmol), 2-chlorocyclopropanecarboxylic acid (66 mg, 0.54 mmol) and HATU (381 mg, 1.08 mmol) in dry DMF (4.5 mL) was added DIPEA (144 mg, 1.08 mmol). The mixture was stirred at 110° C. in a microwave reactor for 1 hour. The mixture was cooled to room temperature and diluted with EtOAc (30 mL). The organic solution was washed with water (10 mL) and brine (10 mL), dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to give the desired compounds.

reactant | N-(2-aminopyridin-4-yl)-2,6-dichlorobenzamide | 0.54 mmol, 150 mg | NC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H9Cl2N3O
reactant | 2-chlorocyclopropanecarboxylic acid | 0.54 mmol, 66 mg | ClC1C(C1)C(=O)O | C4H5ClO2
reactant | HATU | 1.08 mmol, 381 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 1.08 mmol, 144 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 2,6-dichloro-N-(2-((1R,2R)-2-chlorocyclopropanecarboxamido)pyridin-4-yl)benzamide | 12% yield | ClC1=C(C(=O)NC2=CC(=NC=C2)NC(=O)[C@@H]2[C@@H](C2)Cl)C(=CC=C1)Cl | C16H12Cl3N3O2
